US08008302B2
Intermediate 7: 2-[(3R)-3-methylpiperazin-1-yl]pyrimidine
To a solution of (R)-2-methyl piperazine (4.0 g, 40 mmol) in xylene (100 mL) at 140° C. under nitrogen was added 2-bromo pyrimidine (6.36 g, 40 mmol) slowly over a period of 30 min. The heating was continued for additional 15 h and cooled. The solid precipitate was filtered and dried under suction and neutralized with a saturated aqueous solution of sodium bicarbonate. The product was extracted with DCM (2×50 mL), dried and evaporated to afford the title compound as a liquid (2.4 g, 34%). TLC—Chloroform/MeOH (8/2); Rf: 0.2.

reactant | (R)-2-methyl piperazine | 40 mmol, 4.0 g | C[C@H]1NCCNC1 | C5H12N2
reactant | 2-bromo pyrimidine | 40 mmol, 6.36 g | BrC1=NC=CC=N1 | C4H3BrN2
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[(3R)-3-methylpiperazin-1-yl]pyrimidine | 2.4 g, 34% | C[C@@H]1CN(CCN1)C1=NC=CC=N1 | C9H14N4
